US04560692
(c) 1-[2-(4-Fluorophenyl)-6-methyl-4-quinolinyl]-4-piperidinecarboxamide
A mixture of 2.0 g of 4-chloro-2-(4-fluorophenyl)-6-methylquinoline, 1.88 g (10 mmol) of isonipecotamide, and 4 g of phenol was stirred and heated in an oil bath at 165°-170° for 2 hr. It was then cooled and diluted with water. Crystallization was induced by the addition of ethanol and scratching. The solid was collected and washed with ether to give 1.9 g of crude product, mp 264°-271° dec. Recrystallization from pyridine gave the titled product as off-white prisms, mp 275°-277° dec.

reactant | 4-chloro-2-(4-fluorophenyl)-6-methylquinoline | 2.0 g | ClC1=CC(=NC2=CC=C(C=C12)C)C1=CC=C(C=C1)F | C16H11ClFN
reactant | isonipecotamide | 10 mmol, 1.88 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | phenol | 4 g | C1(=CC=CC=C1)O | C6H6O
solvent | water | O | H2O
product | 1-[2-(4-Fluorophenyl)-6-methyl-4-quinolinyl]-4-piperidinecarboxamide | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1)N1CCC(CC1)C(=O)N)C | C22H22FN3O
